US06538000B1
7,7-Dimethyl-9-(3-nitrophenyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one
4,4-Dimethyl-1,3-cyclohexanedione, 3-nitrobenzaldehyde and 3-aminopyrazole were processed as described in General Procedure A to provide the title compound.

reactant | 4,4-Dimethyl-1,3-cyclohexanedione | CC1(C(CC(CC1)=O)=O)C | C8H12O2
reactant | 3-nitrobenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 7,7-Dimethyl-9-(3-nitrophenyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one | CC1(C(C=2C(N3C(NC2CC1)=CC=N3)C3=CC(=CC=C3)[N+](=O)[O-])=O)C | C18H18N4O3
